US07405215B2
a.) (3-Formyl-2-methyl-indol-1-yl)-acetic acid tert-butyl ester (Scheme 6)
K2CO3 (15 mmol, 2.07g) and 1-formyl-2-methyl indole (10 mmol, 1.59 g) were stirred in 50 mL DMF. t-Butyl bromoacetate (12 mmol, 1.77 mL) was added and the reaction was heated to 80° C. for 1 h. The reaction was cooled, diluted with 100 mL EtOAc, and washed with water (3×50 mL). The organic solution was dried over MgSO4 and concentrated to give the sub-title compound as a yellow solid (2.6 g).

reactant | K2CO3 | 15 mmol, 2.07g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-formyl-2-methyl indole | 10 mmol, 1.59 g | C(=O)N1C(=CC2=CC=CC=C12)C | C10H9NO
reactant | t-Butyl bromoacetate | 12 mmol, 1.77 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (3-Formyl-2-methyl-indol-1-yl)-acetic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(CN1C(=C(C2=CC=CC=C12)C=O)C)=O | C16H19NO3
